US04623734
The same reactor as used in Example 7 was adopted. In this reactor, a solution of 120 g of maleic anhydride in 360 g of tetrahydronaphthalene was placed. Then, a solution of 220 g of dodecylamine and 1760 g of tetrahydronaphthalene was added thereto at 40° C. over a period of 120 minutes. After the addition was completed, the resultant mixture and 65.4 g of ortho-phosphoric acid (purity 89% by weight), 1.344 g of methoxybenzoquinone, and 0.1 g of zinc acetate added thereto were heated at 210° C. for one hour to effect reaction. Thereafter, the resultant reaction mixture was cooled to 30° C. and separated into a water layer and a tetrahydronaphthalene layer. The tetrahydronaphthalene layer was distilled to expel tetrahydronaphthalene. Consequently, there was obtained 285 g of slightly impure N-dodecyl maleimide. It was found to have purity of 92.3% by weight, indicating the yield thereof to be 83.5 mol% based on dodecylamine.

reactant | maleic anhydride | 120 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | dodecylamine | 220 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ortho-phosphoric acid | 65.4 g | P(O)(O)(O)=O | H3O4P
reactant | methoxybenzoquinone | 1.344 g | COC=1C(C=CC(C1)=O)=O | C7H6O3
solvent | tetrahydronaphthalene | 360 g | C1CCCC2=CC=CC=C12 | C10H12
catalyst | zinc acetate | 0.1 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | tetrahydronaphthalene | 1760 g | C1CCCC2=CC=CC=C12 | C10H12
product | N-dodecyl maleimide | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
